US07901594B2
9,10-Dipropyl-2,3-diiodoanthracene
9,10-Dipropyl-2,3-diiodo-5,6,7,8-tetrahydroanthracene (0.259 g, 0.5 mmol), 2,3-dichloro-5,6-dicyanobenzoquinone (0.341 g, 1.5 mmol) and 1,4-dioxane (3 ml) were charged in a reactor. Then, the mixture was refluxed for an hour. After cooling, the precipitates were removed by filtration. The solvent in the mixture was removed in vacuum. Column chromatography (hexane) was performed to give the title compound (0.109 g) as a light yellow solid. The isolation yield was 42%.

reactant | 9,10-Dipropyl-2,3-diiodo-5,6,7,8-tetrahydroanthracene | 0.5 mmol, 0.259 g | C(CC)C=1C=2CCCCC2C(=C2C=C(C(=CC12)I)I)CCC | C20H24I2
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 1.5 mmol, 0.341 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 9,10-Dipropyl-2,3-diiodoanthracene | 0.109 g, yield was 42% | C(CC)C=1C2=CC=CC=C2C(=C2C=C(C(=CC12)I)I)CCC | C20H20I2
